US07671235B2
N—[(R)-6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-2-hydroxy-acetamide
Acetic acid {[(R)-6-(3-fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-carbamoyl}-methyl ester (0.1 g) was dissolved in 10 mL methanol, and 2 mL of 2M aqueous NaOH was added. The reaction mixture was heated to 60° C. with stirring for 20 minutes, then cooled and concentrated under reduced pressure. The residue was partitioned between water and ethyl acetate, and the organic layer was separated, dried (MgSO4), and concentrated under reduced pressure. The oily residue was recrystallized from methyl tert-butyl ether/hexanes (1:1) to 80 mg of N—[(R)-6-(3-fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-2-hydroxy-acetamide, MS (M+H)=378.

reactant | Acetic acid {[(R)-6-(3-fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-carbamoyl}-methyl ester | 0.1 g | FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCC[C@H](C2=CC1)CNC(=O)COC(C)=O | C21H22FNO5S
reactant | NaOH | 2M, 2 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | N—[(R)-6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-2-hydroxy-acetamide | FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCC[C@H](C2=CC1)CNC(CO)=O | C19H20FNO4S
